US03943141
1-Ethyl-1,4-dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide
1-Ethyl-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid (4.1g) and N,N'-carbonyldiimidazole (2.85g) in dimethylformamide (30 ml) were stirred and heated at 100° for 3 hours and cooled. 5-Amino-1H-tetrazole (3.6 g) was added and the mixture was stirred at room temperature for 16 hours. The solid was collected and dissolved in aqueous dimethylaminoethanol and the solution was acidified to pH2 with dilute hydrochloric acid. The solid was filtered off and dried, m.p. above 289° (d), (60%)

reactant | 1-Ethyl-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid | 4.1g | C(C)N1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O | C12H12N2O3
reactant | 5-Amino-1H-tetrazole | 3.6 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-1,4-dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide | C(C)N1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)NC1=NN=NN1 | C13H13N7O2
